US07727988B2
1-(3-Hydroxy-propyl)-5-trifluoromethyl-1H-pyrimidine-2,4-dione (Prep20)
A solution of 1-[3-(tert-butyl-dimethyl-silanyloxy)-propyl]-5-trifluoromethyl-1H-pyrimidine-2, 4-dione (Prep 19, 0.86 g, 2.4 mmol) in DCM (10 mL) was cooled at 0° C. and then TFA (2.8 mL, 36 mmol) was added. The mixture was stirred for 1 hour at room temperature and then the solvent was evaporated. The crude was purified by flash chromatography with ethyl acetate-petroleum ether (7-3) to afford the title compound (0.33 g, 57% yield).

reactant | 1-[3-(tert-butyl-dimethyl-silanyloxy)-propyl]-5-trifluoromethyl-1H-pyrimidine-2, 4-dione | 2.4 mmol, 0.86 g | C(C)(C)(C)[Si](OCCCN1C(NC(C(=C1)C(F)(F)F)=O)=O)(C)C | C14H23F3N2O3Si
reactant | TFA | 36 mmol, 2.8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(3-Hydroxy-propyl)-5-trifluoromethyl-1H-pyrimidine-2,4-dione | 0.33 g, 57% yield | OCCCN1C(NC(C(=C1)C(F)(F)F)=O)=O | C8H9F3N2O3
